US04760086
To a solution of 3-hydroxy-5-trifluoromethylbenzo[b]thiophene-2-carboxamide (300 mg, 1.15 mmol) in hot toluene (30 ml) were added 2,2-di-(4-methoxyphenyl)acetaldehyde (380 mg, 1.48 mmol) and p-toluenesulfonic acid monohydrate (20 mg). The reaction mixture was stirred at reflux temperature for one hour with azeotropic removal of water, cooled, and evaporated. Trituration of the residue with diethyl ether gave a yellow solid that was filtered, washed with ether, and dried in vacuo; to yield 453 mg (79%) of 3-hydroxy-N-[2,2-di(4-methoxyphenyl)ethenyl]-5-trifluoromethylbenzo[b]-thiophene-2-carboxamide, m.p. 178°-183° C.

reactant | 3-hydroxy-5-trifluoromethylbenzo[b]thiophene-2-carboxamide | 1.15 mmol, 300 mg | OC=1C2=C(SC1C(=O)N)C=CC(=C2)C(F)(F)F | C10H6F3NO2S
reactant | 2,2-di-(4-methoxyphenyl)acetaldehyde | 1.48 mmol, 380 mg | COC1=CC=C(C=C1)C(C=O)C1=CC=C(C=C1)OC | C16H16O3
reactant | p-toluenesulfonic acid monohydrate | 20 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-N-[2,2-di(4-methoxyphenyl)ethenyl]-5-trifluoromethylbenzo[b]-thiophene-2-carboxamide | 453 mg, 79% | OC=1C2=C(SC1C(=O)NC=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C=CC(=C2)C(F)(F)F | C26H20F3NO4S
